US05460669
Hydroxylammonium 3-Nitroamino-4-Nitrofurazan
A dry clean 250 ml 3 neck round bottom flask equipped with a nitrogen port, magnetic stirring bar, thermocouple was set into an ice bath. 3-Nitroamino-4-nitrofurazan (5.0 grams 0.0285M) was added with 40 ml distilled water. Hydroxyl amine (HA) (11.5% wt in water) was preweighed into a vial, (8.20 grams 0.94 grams HA; 0.0285M). HA was added over three minutes with a pipet at a temperature not exceeding 3° C. The vial was rinsed with 2 mls H2O for quantitative transfer of its contents. Following ten minutes the reaction mixture was stirred cold, then the ice bath was withdrawn and stirred at ambient for 11/2-2 hrs. After transfer to a tarred one neck flask, the water was removed in vacuo at 40° C. to obtain crystals. Crystals were then placed under high vacuum for at least 8 hrs., giving 101% theoretical yield. The product was recrystallized using 9.87 ml of nitromethane per gram of crude product nitromethane. A slurry was formed and was stirred at 63° C., then a few drops of methanol was added and all crystals went into solution. The solution was then set into a refrigerator-freezer at -20° C. for 16 hrs. Sparkly pearlescent flaky crystals were collected on paper and dried to give 84% theoretical yield. DSC: melt 132° C., exothermic decomposition 162.9° C. FTIR, 3200-2700 (m), 1582 (s), 1510 (s), 1336, 1303 (d). Empirical formula, C2H4N6O6, density, (x-ray analysis) 1.875 g/cc. ΔHc 1648 cal/g, ΔHf +18 Kcal/mole.

reactant | 3-Nitroamino-4-nitrofurazan | 0.0285M, 5.0 grams | [N+](=O)([O-])NC1=NON=C1[N+](=O)[O-] | C2HN5O5
catalyst | methanol | a few drops | CO | CH4O
product | Hydroxylammonium 3-Nitroamino-4-Nitrofurazan | [N+](=O)([O-])NC1=NON=C1[N+](=O)[O-].O[NH3+] | InChI=1S/C2HN5O5.H4NO/c8-6(9)2-1(3-7(10)11)4-12-5-2;1-2/h(H,3,4);2H,1H3/q;+1
